US06225328B1
Preparation of 4-[7-(1-adamantyl)-6-carbamoylpentyloxy-2-naphthyl]benzoic acid
Following the procedure of Example 12(a), but reacting 640 mg (1.55 mmol) of methyl 4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate with 450 mg (2.32 mmol) of 6-bromohexanamide, 520 mg (65%) of the expected compound were obtained, which compound had a melting point of 209°-10° C.

reactant | methyl 4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate | 1.55 mmol, 640 mg | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OC)C=C2)O | C28H28O3
reactant | 6-bromohexanamide | 2.32 mmol, 450 mg | BrCCCCCC(=O)N | C6H12BrNO
product | 4-[7-(1-adamantyl)-6-carbamoylpentyloxy-2-naphthyl]benzoic acid | 520 mg, 65% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)O)C=C2)OCCCCCC(N)=O | C33H37NO4
